US08217066B2
Step 2: 1-[4′-(3-Methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester:
n-Butyllithium (1.6 M in hexanes, 2.3 mL, 3.69 mmol) was dissolved in DMSO (8 mL). Trimethylsulfoxonium iodide (0.963 g, 4.29 mmol) was added, followed by 1-[4′-(4-formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.46 g, 1.23 mmol) in DMSO (8 mL). The reaction was stirred at room temperature for 40 minutes and then poured over ice. The mixture was extracted three times with EtOAc, and the combined organic layers were washed three times with H2O, dried, and concentrated. The crude material was purified by silica gel chromatography (0-40% EtOAc in hexanes) to give the title compound.

reactant | n-Butyllithium | 3.69 mmol, 1.6 M, 2.3 mL | C(CCC)[Li]
reactant | Trimethylsulfoxonium iodide | 4.29 mmol, 0.963 g | [I-].C[S+](=O)(C)C
reactant | 1-[4′-(4-formyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 1.23 mmol, 0.46 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C23H21NO4
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | 1-[4′-(3-Methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1OC1 | C24H23NO4
